US03956260
27. Z-Asn-Asn-Phe-NH-NH-BOC
20.93 g of H-Asn-Phe-NH-NH-BOC are dissolved in 45 ml of dimethylformamide with warming, mixed with 22.7 g of Z-Asn-ONP at room temperature, and stirred until the mixture solidifies. After standing overnight, the solid mass is dissolved in 160 ml of dimethylformamide with warming, precipitated by adding dropwise to 1 liter of ether, and the product is filtered off and washed with acetone until free of nitrophenol. Rf = 0.24 in chloroform-methanol (8:2).

reactant | H-Asn-Phe-NH-NH-BOC | 20.93 g | N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)OC(C)(C)C | C18H27N5O5
reactant | Z-Asn-ONP | 22.7 g | C1=CC=C(C=C1)COC(=O)N[C@@H](CC(=O)N)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C18H17N3O7
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | Z-Asn-Asn-Phe-NH-NH-BOC | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C30H39N7O9
